US08278482B2
Benzyl 2-methyl-4-(pyrrolidin-1-yl)butan-2-ylcarbamate
Crude 2-methyl-4-(pyrrolidin-1-yl)butan-2-amine (5.70 g, 31.7 mmol) was dissolved into THF (200 mL). To this solution was added CbzOSu (7.92 g, 1 equiv, 31.7 mmol) in one portion. The reaction was left to stir at room temperature for 16 h. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (50 mL). The layers were separated and the organic layer washed with 1 M sodium carbonate (2×50 mL), 1 M HCl (50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil (9.0 g). The crude oil was purified on an ISCO purification system with gradient elution from 5-90% ethyl acetate in hexanes. The desired fraction was collected and concentrated to give a pale yellow oil (5.76 g, yield: 62.5%). 1H NMR (CDCl3, 400 MHz): δ 1.34 (s, 6H), 1.76-1.84 (m, 6H), 2.58-2.66 (m, 6H), 5.04 (s, 2H), 6.36 (bs, 1H), 7.27-7.39 (m, 5H). LRMS (ESI+) for C17H26N2O2 (290.2); Found: 291 (MH+).

reactant | 2-methyl-4-(pyrrolidin-1-yl)butan-2-amine | 31.7 mmol, 5.70 g | CC(C)(CCN1CCCC1)N | C9H20N2
reactant | CbzOSu | 31.7 mmol, 7.92 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Benzyl 2-methyl-4-(pyrrolidin-1-yl)butan-2-ylcarbamate | 5.76 g, yield: 62.5% | CC(C)(CCN1CCCC1)NC(OCC1=CC=CC=C1)=O | C17H26N2O2
